US06803457B1
5-Chloro-2-(4,5-dihydro-1H-imidazol-2-ylmethoxy)-benzylamine
A solution of 30% HCl in ether (0.5 mL) was added to a solution of [5-chloro-2-(4,5-dihydro-1H-imidazol-2-ylmethoxy)benzyl]-carbamic acid tert-butyl ester (146 mg, 0.43 mmol) in methanol (5 mL). After stirring overnight, the mixture was concentrated and triturated from ether, filtered, washed with ether and dried to afford 76 mg of the title compound as a colorless solid. 1H NMR (400 MHz, CD3OD) δ 7.4 (m, 2H); 7.04 (m, 1H); 4.91 (s, 2H); 4.12 (s, 2H); 4.00 (s, 2H); 3.79 (s, 2H).

reactant | HCl | Cl | ClH
reactant | [5-chloro-2-(4,5-dihydro-1H-imidazol-2-ylmethoxy)benzyl]-carbamic acid tert-butyl ester | 0.43 mmol, 146 mg | C(C)(C)(C)OC(NCC1=C(C=CC(=C1)Cl)OCC=1NCCN1)=O | C16H22ClN3O3
solvent | ether | 0.5 mL | CCOCC | C4H10O
solvent | methanol | 5 mL | CO | CH4O
product | 5-Chloro-2-(4,5-dihydro-1H-imidazol-2-ylmethoxy)-benzylamine | 76 mg | ClC=1C=CC(=C(CN)C1)OCC=1NCCN1 | C11H14ClN3O
